US05840732
Using 1.65 g (8.0 mmol) of 5-(4-hydroxybutyloxy)-imidazo[1,2-a]pyridine, 1.23 ml (8.8 mmol) of triethylamine and 0.68 ml (8.8 mmol) of methanesulfonyl chloride, the same procedure as in Reference Example 8 was followed, to yield 5-(4-methanesulfonyloxybutyloxy)imidazo[1,2-a]pyridine.

reactant | 5-(4-hydroxybutyloxy)-imidazo[1,2-a]pyridine | 8.0 mmol, 1.65 g | OCCCCOC1=CC=CC=2N1C=CN2 | C11H14N2O2
reactant | triethylamine | 8.8 mmol, 1.23 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 8.8 mmol, 0.68 ml | CS(=O)(=O)Cl | CH3ClO2S
product | 5-(4-methanesulfonyloxybutyloxy)imidazo[1,2-a]pyridine | CS(=O)(=O)OCCCCOC1=CC=CC=2N1C=CN2 | C12H16N2O4S
